US05252560
2-Methoxy-6-(dimethoxymethyl)benzaldehyde
A solution of the dimethyl acetal of m-anisaldehyde (490 mg) in dry diethyl ether (10 mL) at 0° was treated with a 1.7 molar solution of t-butyllithium (1.75 mL). The solution was stirred for 1 h at 0°, followed by addition of anhydrous dimethylformamide (0.25 mL). The solution was allowed to warm to 23° over 15 h, quenched by the addition of water, and extracted with ethyl acetate (2×50 mL). The combined organic layers were dried (MgSO4) and evaporated. The residue was purified by chromatography on silica using 90% hexane-ethyl acetate as eluent to afford the title compound as a pale yellow oil (255 mg).

reactant | m-anisaldehyde | 490 mg | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | t-butyllithium | 1.75 mL | C(C)(C)(C)[Li]
reactant | dimethylformamide | 0.25 mL | CN(C=O)C | C3H7NO
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 2-Methoxy-6-(dimethoxymethyl)benzaldehyde | 255 mg | COC1=C(C=O)C(=CC=C1)C(OC)OC | C11H14O4
